US09119868B2
Step 7: (4-(N-(5-Cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-((methoxymethoxy)methyl)phenyl)boronic acid
The crude 5-cyclopropyl-2-(4-fluorophenyl)-6-(N-(3-((methoxymethoxy)methyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide (215 mg, 0.317 mmol) was dissolved in methanol (1.0 mL) and tetrahydrofuran (4.0 mL). HCl (4.0 mL, 4.00 mmol) was added followed by addition of sodium periodate (542 mg, 2.54 mmol). The mixture was stirred at room temperature overnight. It was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc (2×). The organic phase was washed with 10% aq. Na2S2O3, brine, dried over Na2SO4. Concentrated under reduced pressure, the residue was purified by reversed phase HPLC (10-100 MeCN/H2O with 0.05% TFA) to give product (54 mg, 29%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.47 (q, J=4.36 Hz, 1H) 8.07 (s, 1H) 7.97 (dd, J=8.88, 5.37 Hz, 2H) 7.31-7.53 (m, 5H) 7.14-7.20 (m, 1H) 4.65 (s, 2H) 4.59 (s, 2H) 3.37 (s, 2H) 3.24 (s, 2H) 2.83 (d, J=4.68 Hz, 3H) 2.11-2.26 (m, 1H) 1.01 (br. s., 1H) 0.84 (br. s., 2H) 0.52 (br. s., 1H). LCMS (m/z, ES+)=597 (M+H+).

reactant | 5-cyclopropyl-2-(4-fluorophenyl)-6-(N-(3-((methoxymethoxy)methyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide | 0.317 mmol, 215 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)COCOC | C35H40BFN2O8S
reactant | HCl | 4.00 mmol, 4.0 mL | Cl | ClH
reactant | sodium periodate | 2.54 mmol, 542 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 1.0 mL | CO | CH4O
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | (4-(N-(5-Cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-((methoxymethoxy)methyl)phenyl)boronic acid | 54 mg, 29% | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)B(O)O)COCOC | C29H30BFN2O8S
